US06953790B2
Step B: Benzyl (3R)-6-bromo-2-oxo-2,3,4,7-tetrahydro-1H-azepin-3-ylcarbamate
A solution of L-methionine (274 mg, 1.84 mmol) in trifluoroacetic acid (5 mL) was added to a solution of benzyl (3R)-6-bromo-1-(2,4-dimethoxybenzyl)-2-oxo-2,3,4,7-tetrahydro-1H-azepin-3-ylcarbamate (90 mg, 0.184 mmol) in dichloromethane (5 mL). After 18 h, the mixture was concentrated. Purification by reverse phase HPLC (C-18, 95% water/acetonitrile→5% water/acetonitrile with 0.1% trifluoroacetic acid) gave the title compound (17 mg). MS 339 (M+1).

reactant | L-methionine | 1.84 mmol, 274 mg | N[C@@H](CCSC)C(=O)O | C5H11NO2S
reactant | benzyl (3R)-6-bromo-1-(2,4-dimethoxybenzyl)-2-oxo-2,3,4,7-tetrahydro-1H-azepin-3-ylcarbamate | 0.184 mmol, 90 mg | BrC1=CC[C@H](C(N(C1)CC1=C(C=C(C=C1)OC)OC)=O)NC(OCC1=CC=CC=C1)=O | C23H25BrN2O5
solvent | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | Benzyl (3R)-6-bromo-2-oxo-2,3,4,7-tetrahydro-1H-azepin-3-ylcarbamate | 17 mg | BrC1=CC[C@H](C(NC1)=O)NC(OCC1=CC=CC=C1)=O | C14H15BrN2O3
